US04304781
2-Benzylthio-3,4,5,6-tetrahydro-1-methylpyridinium bromide
1-Methyl-2-piperidothione (1.29 g) was dissolved in acetone (10 ml) and treated with benzyl bromide (1.7 g).

reactant | 1-Methyl-2-piperidothione | 1.29 g | CN1C(CCCC1)=S | C6H11NS
reactant | benzyl bromide | 1.7 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 2-Benzylthio-3,4,5,6-tetrahydro-1-methylpyridinium bromide | [Br-].C(C1=CC=CC=C1)SC1=[N+](CCCC1)C | InChI=1S/C13H18NS.BrH/c1-14-10-6-5-9-13(14)15-11-12-7-3-2-4-8-12;/h2-4,7-8H,5-6,9-11H2,1H3;1H/q+1;/p-1
